US05026704
1-(2-Phenylethyl)benzo[f]quinoxaline-2,3(1H,4H)-dione (Compound 34)
A solution of 4-bromo-1-methoxy-2-nitronaphthalene (2.82 g, 10 mmol) and 12.5 -phenylethylamine (1.4 ml, 11 mmol) in 20 ml of dry N,N-dimethylformamide was stirred at 80° C. for 2 h, Ni/Raney. and evaporated to dryness in vacuo. The crude 4-bromo-2-nitro-1-phenylethylaminonaphthalene (3.7 g, 10 mmol) was suspended in 100 ml of 96% ethanol. Dry triethylamine (1.4 ml, 10 mmol) was added, and the mixture was hydrogenated at room temperature and atmospheric pressure in the presence of 5% palladium-on-carbon (300 mg) for 6 h. The catalyst was filtered off, and the filtrate was evaporated to dryness. The residue was taken up in 25 ml of dry tetrahydrofuran, and dry triethylamine (1.4 ml, 10 mmol) was added. Then a solution of ethyl oxalylchloride (1.2 ml, 10 mmol) in 5 ml of dry tetrahydrofuran was added dropwise with stirring at 0° C. The mixture was stirred over night at room temperature and evaporated to dryness. The residue was triturated with 40 ml of ethanol and filtered. Washing with water and ethanol afforded 0.70 g (22%) of the title compound. M.p. 268.1° C. (DSC); IR (KBr): 1680 cm-1 ; 1H-NMR (DMSO-d6): 3.03 (distorted t,J=7 Hz, 2H, CH2), 4.56 (distorted t,J=7 Hz, 2H, NCH2), 6.80-8.20 (m, 11H, ArH), 11.8 (broad s, 1H, NH); MS (m/z): 316 (M+, 60%).

reactant | 4-bromo-1-methoxy-2-nitronaphthalene | 10 mmol, 2.82 g | BrC1=CC(=C(C2=CC=CC=C12)OC)[N+](=O)[O-] | C11H8BrNO3
reactant | 4-bromo-2-nitro-1-phenylethylaminonaphthalene | 10 mmol, 3.7 g | BrC1=CC(=C(C2=CC=CC=C12)NC(C)C1=CC=CC=C1)[N+](=O)[O-] | C18H15BrN2O2
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | Ni | [Ni] | Ni
catalyst | palladium-on-carbon | 300 mg | [Pd] | Pd
product | 1-(2-Phenylethyl)benzo[f]quinoxaline-2,3(1H,4H)-dione | 0.70 g, 22% | C1(=CC=CC=C1)CCN1C(C(NC=2C=CC3=C(C12)C=CC=C3)=O)=O | C20H16N2O2
